2137-04-02 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2137-4-1**] 05:19 PM
   lipitor held given elevated LFTs.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2137-4-2**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-4-2**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**39**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 76 (63 - 92) bpm
   BP: 108/63(73) {77/52(64) - 131/90(98)} mmHg
   RR: 17 (16 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                     60 mL
                                                                     90 mL
   PO:
                                                                     60 mL
                                                                     90 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    500 mL
                                                                    269 mL
   Urine:
                                                                    400 mL
                                                                    269 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -440 mL
                                                                   -179 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   GENERAL: comfortable, AOX 3
   Neck: supple, no JVP, no carotid bruit
   CVS: RRR, S1 S2 clear, I/VI SEM heard best at RUSB, abdominal
   bruit/pulsation radiating to femorals.
   Lungs: CTA-B, no wheeze, rales, ronchi.
   Abd: +bs, soft, nt, nd
   colostomy bag site no erythema, tenderness, swelling, staples in place
   with some granulation tissue/? drainage
   intertrigo bilateral groin
   Venous stasis ulcer
   Labs / Radiology
   416 K/uL
   12.0 g/dL
   82 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.8 mEq/L
   36 mg/dL
   100 mEq/L
   136 mEq/L
   35.2 %
   10.3 K/uL
        [image002.jpg]
                             [**2137-4-1**]  05:23 PM
                             [**2137-4-2**]  02:17 AM
   WBC
   9.4
   10.3
   Hct
   35.8
   35.2
   Plt
   346
   416
   Cr
   1.1
   1.1
   TropT
   0.10
   0.08
   Glucose
   84
   82
   Other labs: PT / PTT / INR:15.0/38.9/1.3, CK / CKMB /
   Troponin-T:17//0.08, ALT / AST:248/365, Alk Phos / T Bili:463/0.8,
   Differential-Neuts:80.2 %, Lymph:11.1 %, Mono:7.5 %, Eos:1.1 %,
   Albumin:3.1 g/dL, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 COLITIS, ISCHEMIC
   ASSESSMENT AND PLAN:67 F with hx CAD s/p RCA and LCx stents, PVD s/p
   aortobifem bypass and R CEA (with 99% restenosis), CHF (previous EF
   25%, now 50 %) admitted for interventional cath following diagnostic
   cath at OSH who continues to be asymptomatic.
   .
   # CORONARIES: Lcx lesion, total occlusion RCA.Trop 0.18 at OSH.  OSH
   cath report faxed confirming anatomy
   0.10 y/d, 0.08 this morning. Trop could have been elevated [**2-26**] recent
   diagnostic cath.
   NPO for ? cath. Consider whether medical management vs intervention
   appropriate.
   continue ASA, high dose atorvastatin, metoprolol.
   .
   # PUMP: hx CHF, EF now 50%, improved from prior echo (not on file).
   Also showed mod MR, mod TR, mod LAE. Euvolemic on exam. Had flashed at
   OSH and had been on nitro.
   d/c nitropaste.
   hold lasix for now.
   OSH
   continue metoprolol 12.5 [**Hospital1 **] if bp tolerates.
   On lisinopril 40 qd, spironolactone 25 at home. Hold for now.
   Lasix if HTN.
   .
   # RHYTHM:Sinus. Continue telemetry.
   .
   # s/o cholectomy with dual colostomies.
   Has been on PPN/Full liquids at OSH. Alb 1.5 on admit there, now 3.1
   Has mild transaminitis likely [**2-26**] PPN.
   continue full liquid diet. Hold PPN.
   continue to trend LFTs.
   nutrition consult in am.
   .
    # Transaminitis: ALT/AST 179/266/451
   .
   #  Anemia: Admitted [**3-11**] to All saints with bloody diarrhea with crit
   drop to 22 with ischemic colitis ,with subsequent x-lap, colostomy and
   blood transfusion. Known iron deficiency with IV iron given [**3-18**].
   HCT have ranged 28-32 since then, 35.8 on admission
   -continue to trend, guaic all stools.
   .
   # cholectomy with dual colostomies: ? drainage.
   wound care consult.
   .
   # Weakness: thought secondary to deconditioning. PT eval post once on
   floor, likely dc to acute rehab.
   .
   FEN: TPN s/p colostomy given ileus. Now taking full liquids on low
   sodium/heart healthy diet.
    NPO after midnight for cath.
   -nutrition consult given prolonged poor intake.
   .
   ICU Care
   Nutrition: FEN: TPN s/p colostomy given ileus. Now taking full liquids
   on low sodium/heart healthy diet.
    NPO after midnight for cath.
   -nutrition consult given prolonged poor intake.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-4-1**] 05:19 PM
   Prophylaxis:
   DVT: hep SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: patient. : Daughter [**First Name8 (NamePattern2) 479**] [**Last Name (NamePattern1) 11406**]:
   [**Telephone/Fax (1) 11407**].
   Code status: Full code
   Disposition: CCU for now.
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Per housestaff
   nothing to add
   Physical Examination
   Per housestaff
   in addition absent upper extremity pulses
   Medical Decision Making
   Per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 45 minutes.
   Additional comments:
   Planned for intervention on RCA
   ischemic colitis evaluated at outside hospital
   no further bleeding
   diurese gently as required
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 1584**],MD
   on:[**2137-4-2**] 09:17 ------

2137-04-03 06:45:00 Physician Resident Progress Note
RESIDENT PROGRESS NOTE (Pt: [**Name (NI) 2536**], [**Name (NI) 130**])
   Chief Complaint:
   24 Hour Events:
 SHEATH - START [**2137-4-2**] 02:00 PM
 SHEATH - STOP [**2137-4-2**] 07:45 PM
   - noted that noninvasive BPs significantly lower than central arterial
   BP's
   - got BMS to Lcx (prox to previous lesion)
   - groin hematoma -> placed pressure device -> pulses vanished and leg
   became mottled and cold and painful -> BP dropped to the 60's (HR in
   the 90's) -> released pressure and everything resolved
   - crit stable; briefly on levophed and fluids for hypotension
   - per cards fellow who did cath, low risk of RP bleed
   - had back pain, gave oxycodone
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2137-4-2**] 08:00 AM
   Hydralazine - [**2137-4-2**] 02:45 PM
   Heparin Sodium (Prophylaxis) - [**2137-4-2**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-4-3**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**39**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 86 (66 - 98) bpm
   BP: 116/74(82) {57/29(43) - 131/92(101)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,394 mL
                                                                     97 mL
   PO:
                                                                    150 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  1,244 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                    951 mL
                                                                    137 mL
   Urine:
                                                                    881 mL
                                                                    107 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    443 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   Gen: Alert, NAD
   CVS: RRR, S1 S2 clear, 2/6 systolic murmur heard best at RUSB
   Lungs: some rhonchi throughout, scattered wheezes
   Abd: +bs, soft, nt, nd; colostomies in place; surgical staples in place
   Ext: RLE with dopplerable DP and PT pulses
   Labs / Radiology
   396 K/uL
   11.2 g/dL
   97 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.7 mEq/L
   41 mg/dL
   101 mEq/L
   135 mEq/L
   33.3 %
   16.5 K/uL
                             [**2137-4-1**]  05:23 PM
                             [**2137-4-2**]  02:17 AM
                             [**2137-4-2**]  07:00 PM
                             [**2137-4-2**]  09:33 PM
                             [**2137-4-3**]  04:13 AM
   WBC
   9.4
   10.3
   9.9
   16.5
   Hct
   35.8
   35.2
   36.5
   36.7
   33.3
   Plt
   346
   416
   378
   429
   396
   Cr
   1.1
   1.1
   1.1
   TropT
   0.10
   0.08
   Glucose
   84
   82
   97
   Other labs: PT / PTT / INR:14.2/29.6/1.2, CK / CKMB /
   Troponin-T:20//0.08, ALT / AST:248/365, Alk Phos / T Bili:463/0.8,
   Differential-Neuts:88.5 %, Lymph:6.9 %, Mono:4.5 %, Eos:0.0 %,
   Fibrinogen: 177, Albumin:3.1 g/dL, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:5.3 mg/dL
   Assessment and Plan
   67 F with hx CAD s/p RCA and LCx stents, PVD s/p aortobifem bypass and
   R CEA (with 99% restenosis), CHF (previous EF 25%, now 50 %) admitted
   for interventional cath following diagnostic cath at OSH who continues
   to be asymptomatic.
   .
   # CORONARIES: Lcx lesion, total occlusion RCA. Pt underwent cath
   yesterday, during which she had a BMS to the LCx. Post cath course
   complicated by L groin hematoma, requiring compression device.  Pt then
   developed pain, mottling of the L leg, and hypotension, which all
   resolved with removal of the compression device.
   - continue aspirin, plavix, beta blocker
   - restart statin
   .
   # PUMP: hx CHF, EF now 50%, improved from prior echo (not on file).
   Also showed mod MR, mod TR, mod LAE. Euvolemic on exam. Had flashed at
   OSH and had been on nitro.
   - continue metoprolol 12.5 [**Hospital1 **] if bp tolerates.
   - home lisinopril and spironolactone on hold
   - continue to monitor fluid status
   .
   # Leukocytosis: ? reactive [**2-26**] recent cath. Pt afebrile overnight. Of
   note, pt did have some
foul-smelling
 urine per nursing. Positive U/A.
   - cipro for UTI
   - pull Foley
   - continue to trend fever and WBC curves
   .
   # RHYTHM:Sinus. Continue telemetry.
   .
   # s/o cholectomy with dual colostomies. Has been on PPN/Full liquids at
   OSH. Alb 1.5 on admit there, now 3.1. Has mild transaminitis likely [**2-26**]
   PPN.
   - continue full liquid diet
   - f/u nutrition recs
   - trend LFTs, need to add on to morning labs today
   - talk to surgery re: post-op care for abd wound
   .
   #  Anemia: Admitted [**3-11**] to All saints with bloody diarrhea with crit
   drop to 22 with ischemic colitis ,with subsequent x-lap, colostomy and
   blood transfusion. Known iron deficiency with IV iron given [**3-18**].
   HCT have ranged 28-32 since then, 35.8 on admission. Crit slightly down
   this morning from yesterday (36 -> 33).
   - recheck crit later this morning
   - continue to trend, guaic all stools.
   .
   # cholectomy with dual colostomies: ? drainage.
   - f/u wound care recs
   .
   # Weakness: thought secondary to deconditioning.
   - PT eval post once on floor, likely dc to acute rehab.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-4-1**] 05:19 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor